US07268232B2
4-(4-Benzyl-4-hydroxypiperidin-1-yl)naphthalene-1-carbonitrile (196MBT2-16)
The title compound (12 mg, 30% yield) was prepared as described for 196MBT2-4 from 1-cyano-4-fluoronaphthalene (20 mg, 0.117 mmol) and 4-benzyl-4-hydroxypiperidine (89 mg, 0.468 mmol).

reactant | 1-cyano-4-fluoronaphthalene | 0.117 mmol, 20 mg | C(#N)C1=CC=C(C2=CC=CC=C12)F | C11H6FN
reactant | 4-benzyl-4-hydroxypiperidine | 0.468 mmol, 89 mg | C(C1=CC=CC=C1)C1(CCNCC1)O | C12H17NO
product | 4-(4-Benzyl-4-hydroxypiperidin-1-yl)naphthalene-1-carbonitrile | 12 mg, 30% yield | C(C1=CC=CC=C1)C1(CCN(CC1)C1=CC=C(C2=CC=CC=C12)C#N)O | C23H22N2O
